US06423727B1
1.24 g (7.6 mmol) of NBS (N-bromosuccinimide) is added in small portions to a solution of (2-methoxy-biphenyl-4-yl)-methanol (1.35 g, 6.3 mmol) and triphenyl phosphine (2.0 g, 7.0 mmol) in 15 mL of CH2Cl2 at 0° C. The cooling bath is removed and the reaction mixture is stirred at room temperature overnight. The reaction mixture is then concentrated in vacuo, and the residue is purified by chromatography on silica gel (10% EtOAc/hexane) to furnish 4-bromomethyl-2-methoxy-biphenyl as a clear, colorless oil. 1H NMR (250 MHz, CDCl3) δ7.45-7.55 (m, 2 H), 7.20-7.45 (m, 4 H), 7.05 (dd, 2 H), 7.0 (d, 1 H), 4.50 (s, 2 H), 3.80 (s, 3 H).

reactant | NBS | 7.6 mmol, 1.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (2-methoxy-biphenyl-4-yl)-methanol | 6.3 mmol, 1.35 g | COC1=C(C=CC(=C1)CO)C1=CC=CC=C1 | C14H14O2
reactant | triphenyl phosphine | 7.0 mmol, 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-2-methoxy-biphenyl | BrCC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C14H13BrO
